US06335360B1
1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-5-trifluoromethoxyindoline-2(R/S)-carboxylic acid
To the solution of 1-(N-t-butoxycarbonyl-2(S)-aminobutyryl)-5-trifluoromethoxyindoline-2(R/S)-carboxylic acid methyl ester (1.0 g, 2.24 mmol) in methanol (15 ml), was added sodium hydroxide (0.134 g, 3.36 mmol) in water (10 ml). The solution was stirred at 5 to 10° C. for 4 hours. The mixture was poured into dichloromethane (40 ml), and washed with cold potassium hydrogen sulphate (3×20 ml), and water (20 ml). The organic layer was dried over sodium sulphate, and evaporated to provide a white foam which was pure enough for the next step.

reactant | 1-(N-t-butoxycarbonyl-2(S)-aminobutyryl)-5-trifluoromethoxyindoline-2(R/S)-carboxylic acid methyl ester | 2.24 mmol, 1.0 g | COC(=O)C1N(C2=CC=C(C=C2C1)OC(F)(F)F)C([C@H](CC)NC(=O)OC(C)(C)C)=O | C20H25F3N2O6
reactant | sodium hydroxide | 3.36 mmol, 0.134 g | [OH-].[Na+]
reactant | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | methanol | 15 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-5-trifluoromethoxyindoline-2(R/S)-carboxylic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1C(CC2=CC(=CC=C12)OC(F)(F)F)C(=O)O)CC | C19H23F3N2O6
